US08389524B2
(b) Methyl 2-bromo-3-[(phenylmethyl)oxy]propanoate
A solution of 2-bromo-3-[(phenylmethyl)oxy]propanoic acid (6 g, 23.2 mmol) in methanol (40 ml) at rt under argon was treated with thionyl chloride (1.7 ml, 23.2 mmol) and the reaction was then stirred at rt for 3 h and then evaporated to give product as a yellow oil (6.3 g, 99%).

reactant | 2-bromo-3-[(phenylmethyl)oxy]propanoic acid | 23.2 mmol, 6 g | BrC(C(=O)O)COCC1=CC=CC=C1 | C10H11BrO3
reactant | thionyl chloride | 23.2 mmol, 1.7 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 40 ml | CO | CH4O
product | Methyl 2-bromo-3-[(phenylmethyl)oxy]propanoate | 6.3 g, 99% | BrC(C(=O)OC)COCC1=CC=CC=C1 | C11H13BrO3
